data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,2574,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCOC(=O)C[C:1](CC(=O)OCC)=[OH+:2].OCC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8808,"CCO[S:1](C)(C)[O:2]S(=O)(=O)[O-]|((1, 2), 2)"
train,pmechdb_split_0,0,10076,"CCC[O+:1](B(F)F)[CH2:2][O:3]C.[F-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8818,"C1CC[C:1](=[O:2])C1.[C-]#[N+][CH-:3]S(=O)(=O)C1CCC(C)CC1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7149,"CCN[C:1](C)([O-:2])[O:3]C(C)=O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6248,"O=S(=O)(O)[O-:1].O=[N+]([O-])C1=CC2=C(C=C1)C=C[CH+:2][C:3]2(S(=O)(=O)O)[H:4]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,6312,"COC(=O)C12CCCC(C[C:1](OC)=[O:2])(C1=O)C([CH:3]=[C:4](OC)[O-:5])CC2|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,9107,"C#CC=CCC1OC(CC)C=CC=CC1[OH+:1][Si-:2](C)(C)(F)C(C)(C)C.CC(C)[Si](F)(C(C)C)C(C)C.CCCC[N+](CCCC)(CCCC)CCCC.[OH-]|((2, 1), 1)"
train,pmechdb_split_0,0,2557,"CC(=O)[O-:1].O.O=C(C1=CC=C(F)C=C1)C(C1=CC=NC=C1)[CH:2]([H:3])[C:4](C1CCN(C(=O)OCC2=CC=CC=C2)CC1)=[NH2+:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6782,"CC#CCC[CH:1]=[C:2](C)CCC(=C(C)C)[C+:3](C)C.O.O=C[O-]|((2, 1), 3)"
train,pmechdb_split_0,0,8558,"CO[C+:1]1C=CO[C:2]1(Br)[H:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,7885,"CCCC[C:1](C1=CC=CC=C1)=[O:2].CCC[CH2:3][Li:4].[Li][O]CCC|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,816,"CCC1C=CC2C(CCCC#N)C1[C:1](NN)([O-:2])[O:3]2.N[NH3+]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5538,"O=C1C[NH+:1]=[C:2](C2=NC=CC=C2)C2=C(C=CC=C2)N1.[Cl-].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1454,"CCOC(C1CCCCC1)(C(F)(F)C(F)(F)F)[CH+:1][O][Al-:2]([CH3])([CH3])[CH3:3]|((2, 3), 1)"
train,pmechdb_split_0,0,6539,"CC(=O)[O-].CC(C)(C)[OH:1].CCCCCC[C:2]([N+]1=CC=C(N(C)C)C=C1)=[O:3].CCN(CC)CC|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6548,"C=CC(C)=O.CO.C[C:1]1([H:2])C(=O)CCCC1=O.C[O:3][Na]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3651,"CC(C)[C:1]1([H:2])OC(C(F)(F)F)=C[CH+:3]1.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,3500,"C=CCC(OC)=[NH+:1][H:2].[Cl-].[Na][O:3]Cl|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5126,"CC1CCC[CH:1]([H:2])[C:3]1=[N+:4]1CCCC1.[OH2:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6918,"C=C[CH+:1]C1=CC=CC=C1.CC[OH:2]|(2, 1)"
train,pmechdb_split_0,0,2049,"CC(C)(C)[Si](C)(C)F.CC1(C)CCCC2(C)C1C([OH+:1][Si-:2](C)(C)(F)C(C)(C)C)C=C1COC(O)C12O.CC[N+](CC)(CC)CC.[OH-]|((2, 1), 1)"
train,pmechdb_split_0,0,606,"CC[C:1]([CH2:2][H:3])=[O:4].[NH2-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,3366,"CC(C)COCC1C(O)C[CH:1]([N+:2]2=CC(CC(C)C)=CC=C2)[O:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4301,"COC(=O)C(C(=O)OC)C(C(C(=O)OC)[C:1](OC)=[O:2])C(C)(C)[O-:3].O=C([O-])O.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8,"CCOC(=O)NN=C(O)OCC.CCOC(=O)NNC(=O)OCC.N#C[CH:1](C1=CC=CC=C1)[O:2][P+:3](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C(CC1=CC=C([N+](=O)[O-])C=C1)[O-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,485,"CCC[CH2][Sn-:1]([CH2]CCC)([CH2]CCC)([CH2]CCC)[CH:2](OCC)OCC.[Li+:3]|((1, 2), 3)"
train,pmechdb_split_0,0,9166,"O=[N+]([O-])C1=C[CH:1]=[CH:2]O1.[Br:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8658,"C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CCCOC(=O)C(CC)[N-][N+:2]#[N:3].[OH3+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,620,"O=S(=O)(O)[O-:1].O=[N+]([O-])C1=C[C:2](S(=O)(=O)O)([H:3])[CH+:4]O1|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,508,"Br[C:1]1([H:2])CCCC[CH:3]1[Br:4].[NH2-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,197,"C(C[CH2:1][Br:2])C[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4703,"C[CH:1]=[Br+:2].[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8214,"CCOC[O+:1](C)[H:2].[Cl-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4091,"CC1(C)CC(=O)CC1[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9275,"CC12CCC(O)CC1CCC1C2CCC2(C)C1CCC21OCC[O+:1]1[H:2].CS(=O)(=O)[O-].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2774,"C[C:1](C)(C)[O:2][C:3](NCCN1N=C(C2=CC=CC=C2)C=C1C(=O)CC1CCCCC1)=[OH+:4].O=C([O-])C(F)(F)F|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2583,"CO.COC1=C(OC)C=C(C2=C(C)C(C)[C:1](C3=CC(OC)=C(OC)C=C3)([OH2+:2])[O:3]2)C=C1.O.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9670,"C1=CC=[N:1]C=C1.CCCCCC1=C[C:2](=[O:3])[C:4](C(O)C=C(C)CCC=C(C)C)([H:5])C(O)=C1|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,5034,"COC1=C(C)C=C2CC3(C)C(O)CCC(C2=C1)C3(N1CCCC1)[OH+:1][H:2].[Cl-].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8683,"CC(C)(C)[Si](C)(C)OCC(C)(C1=CC=CC=C1)[C:1](N=[N+]=[N-])([O-:2])[O:3]P(=O)(OC1=CC=CC=C1)OC1=CC=CC=C1.CC[NH+](CC)CC|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3050,"C[P:1](C)(=O)CC[O-:2]|(2, 1)"
train,pmechdb_split_0,0,8386,"C[NH:1][C:2]1([OH2+:3])OCCCO1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10217,"C[S:1](=[OH+:2])[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7256,"CC12CCC(=O)C=C1CCC1C2CCC2(C)C1CC([O-:1])CC(=O)[C:2]2=[O:3]|(1, 2);((2, 3), 3)"
